US05326776
Ethyl 5-methyl-3-propylaminoisoxazole-4-carboxylate
Ethyl 5-methylisoxazole-4-carboxylate is quaternized with propyl benzenesulfonate and the resulting quaternary salt is reacted with hydroxylamine to give the title compound according to the procedure of A. Alberola et al., Synthesis 203 (1988).

reactant | Ethyl 5-methylisoxazole-4-carboxylate | CC1=C(C=NO1)C(=O)OCC | C7H9NO3
reactant | propyl benzenesulfonate | C1(=CC=CC=C1)S(=O)(=O)OCCC | C9H12O3S
reactant | hydroxylamine | NO | H3NO
product | Ethyl 5-methyl-3-propylaminoisoxazole-4-carboxylate | CC1=C(C(=NO1)NCCC)C(=O)OCC | C10H16N2O3
